US06107329
(±)-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-hydroxy-propionic acid methyl ester
D,L-Serine methyl ester hydrochloride (2.1 mmol) and 5-chloro-1H-indole-2-carboxylic acid (2.0 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, washed with acid first then with saturated NaHCO3) and the product purified by chromatography on silica gel eluted with 10, 20, 40 and 60% ethyl acetate in hexanes: Yield 565 mg, 95%; HPLC (60/40) 3.46 minutes (98%); mp 153-155° C.; TSPMS 297/299 (MH+, 100/40%);

reactant | D,L-Serine methyl ester hydrochloride | 2.1 mmol | Cl.COC(C(N)CO)=O
reactant | 5-chloro-1H-indole-2-carboxylic acid | 2.0 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | (±)-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-hydroxy-propionic acid methyl ester | COC(C(CO)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C13H13ClN2O4
